US05306688
To 700 ml of methanol suspended 153 g of 4-aminosalicylic acid and 84 g of sodium hydrogen carbonate, 193 g of n-octylchloroformate was dropwise added over 2 hours at room temperature. After finishing dropwise addition, the mixture was further stirred for 2 hours at room temperature. An aqueous solution containing 30 g of concentrated hydrochloric acid and 1200 ml of water was added to the reaction mixture. Precipitated crystals were filtered and dried to obtain 300 g of desired 4-(n-octyloxycarbonylamino)salicylic acid as colorless crystals. Yield was 97%.

reactant | 4-aminosalicylic acid | 153 g | NC=1C=C(C(C(=O)O)=CC1)O | C7H7NO3
reactant | sodium hydrogen carbonate | 84 g | C(O)([O-])=O.[Na+]
reactant | n-octylchloroformate | 193 g | C(CCCCCCC)OC(=O)Cl | C9H17ClO2
reactant | hydrochloric acid | 30 g | Cl | ClH
solvent | water | 1200 ml | O | H2O
solvent | methanol | 700 ml | CO | CH4O
product | 4-(n-octyloxycarbonylamino)salicylic acid | 300 g, Yield was 97% | C(CCCCCCC)OC(=O)NC=1C=C(C(C(=O)O)=CC1)O | C16H23NO5
